US08541575B2
N-{3-[4-(2-aminopyrimidin-4-yl)-1-(4-methoxybenzyl)-1H-pyrazol-3-yl]phenyl}-2,5-difluorobenzenesulfonamide
175 mg (0.47 mmol) of 4-[3-(3-aminophenyl)-1-(4-methoxybenzyl)-1H-pyrazol-4-yl]-pyrimidin-2-amine were dissolved with 10 ml of dry pyridine and 63 μl of 2,5-difluorobenzensulfonylchloride were added under stirring. The solution was maintained at room temperature overnight. The reaction mixture was then poured into aqueous sodium hydrogenocarbonate and extracted with dichloromethane. The organic layer was dried over sodium sulphate and evaporated to dryness. The residue was purified by flash-chromatography on a silica gel column (CH2Cl2-CH3COCH3; from 9/1 to 8/2), giving 80 mg (31%) of the title compound.

reactant | 4-[3-(3-aminophenyl)-1-(4-methoxybenzyl)-1H-pyrazol-4-yl]-pyrimidin-2-amine | 0.47 mmol, 175 mg | NC=1C=C(C=CC1)C1=NN(C=C1C1=NC(=NC=C1)N)CC1=CC=C(C=C1)OC | C21H20N6O
reactant | 2,5-difluorobenzensulfonylchloride | 63 μl | FC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | sodium | [Na] | Na
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-{3-[4-(2-aminopyrimidin-4-yl)-1-(4-methoxybenzyl)-1H-pyrazol-3-yl]phenyl}-2,5-difluorobenzenesulfonamide | 80 mg, 31% | NC1=NC=CC(=N1)C=1C(=NN(C1)CC1=CC=C(C=C1)OC)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C27H22F2N6O3S
